US04678781
The starting material was prepared by reaction of 1-bromoisoquinoline with trimethyloxonium tetrafluoroborate in CH2Cl2 to give 1-bromo-2-methylisoquinolinium tetrafluoroborate, m.p. 162°.

reactant | 1-bromoisoquinoline | BrC1=NC=CC2=CC=CC=C12 | C9H6BrN
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-bromo-2-methylisoquinolinium tetrafluoroborate | F[B-](F)(F)F.BrC1=[N+](C=CC2=CC=CC=C12)C | InChI=1S/C10H9BrN.BF4/c1-12-7-6-8-4-2-3-5-9(8)10(12)11;2-1(3,4)5/h2-7H,1H3;/q+1;-1
